US06872827B2
A solution of benzyl-(4-hydroxy-butyl)-carbamic acid tert butyl ester (9.4 g, 33.7 mmol) in anhydrous dimethyl formamide “DMF” (40 mL) was cooled in an ice bath. Pyridinium dichromate (44 g, 117 mmol) was added in 4 portions of with 15 min intervals. The reaction mixture was allowed to stir overnight at room temperature resulting in a viscous black slurry. The slurry was poured into water (400 mL), acidified to pH 1 with concentrated HCl and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with, 5% NaHSO4 (100 mL), water (4×300 mL). Subsequently, the organic layer was extracted with 1M NaOH (150, 75, and 50 mL). The combined aqueous layers were cooled with an ice bath and the pH was adjusted to 3 with concentrated HCl. The resulting white suspension was extracted three times with ethyl acetate (3×200 mL) and the combined organic layers were dried over Na2SO4, filtered, and the solvent was evaporated in vacuo to give N-benzyl-N-(t-butoxy-carbonyl)-4-amino-1-butanoic acid (4.0 g, 40%) as viscous oil. 1H NMR (CDCl3): δ 7.23-7.35 (m, 5H); 4.41 (bs, 2H); 3.29 (bs, 1H); 3.19 (bs, 1H); 2.33 (bs, 2H); 1.82 (bs, 2H); 1.46 (bs, 9H).

reactant | benzyl-(4-hydroxy-butyl)-carbamic acid tert butyl ester | 33.7 mmol, 9.4 g | C(C)(C)(C)OC(N(CCCCO)CC1=CC=CC=C1)=O | C16H25NO3
reactant | Pyridinium dichromate | 117 mmol, 44 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | 400 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
product | N-benzyl-N-(t-butoxy-carbonyl)-4-amino-1-butanoic acid | 4.0 g, 40% | C(C1=CC=CC=C1)N(CCCC(=O)O)C(=O)OC(C)(C)C | C16H23NO4
